US08022062B2
5-(Aminomethyl)-pyridine-2-carboxylic acid cyclohexylamide:
Use the General Procedure 6-2, using cyclohexylamine (1 mL), lithium 5-(tert-butoxycarbonylamino-methyl)-pyridine-2-carboxylate (1 g, 3.96 mmol) and DIEA (5 mL) as cosolvent, to give the title compound as a white solid (200 mg, 22%). MS (ES+) m/z: 234 (M+H)+.

reactant | cyclohexylamine | 1 mL | C1(CCCCC1)N | C6H13N
reactant | lithium 5-(tert-butoxycarbonylamino-methyl)-pyridine-2-carboxylate | 3.96 mmol, 1 g | C(C)(C)(C)OC(=O)NCC=1C=CC(=NC1)C(=O)[O-].[Li+]
reactant | DIEA | 5 mL | CCN(C(C)C)C(C)C | C8H19N
product | 5-(Aminomethyl)-pyridine-2-carboxylic acid cyclohexylamide | 200 mg, 22% | C1(CCCCC1)NC(=O)C1=NC=C(C=C1)CN | C13H19N3O
